// File: nmos_top_trim1.spi
// Created: Sun Mar 15 12:51:19 2026
// Program "Calibre xRC"
// Version "v2023.2_27.15"
// 
simulator lang=spectre
include "/import/yukari1/lrburle/sky130RHBDlib/calibre/sky130_rhbd_output/spice/nmos_top_trim1.pex.spice"
subckt nmos_top_trim1 (  )
// 
M0_noxref ( noxref_1 noxref_3 noxref_2 noxref_5 ) NMOS l=0.163346 w=2.31104 m=1
c_3 ( noxref_1 0 ) capacitor c=0.00700155f //x=0.43 //y=0.54
c_6 ( noxref_2 0 ) capacitor c=0.187445f //x=0 //y=0
c_9 ( noxref_3 0 ) capacitor c=0.220409f //x=0.62 //y=0.965
// 
include "/import/yukari1/lrburle/sky130RHBDlib/calibre/sky130_rhbd_output/spice/nmos_top_trim1.pxi.spice"
// 
ends NMOS_TOP_TRIM1
// 
// 
